US08865752B2
Step-2: A solution of N-(4-butyryl-phenyl)acetamide (3.47 g, 16.9 mmol) in 100 mL of anhydrous DCM was cooled to 0° C. under N, and treated with AlCl3 (180 mg, 1.35 mmol). Approximately 10 mL of Br2 was added and the mixture was stirred for 10 min. The reactor was removed from the cooling bath and the remaining Br2 was added dropwise via syringe over 0.5 min. After 3 hr, the dark orange color of Br2 had faded and by 3¼ hr a precipitate had formed. The reaction was quenched with saturated NaHCO3. The phases were separated and the aqueous phase extracted three times with DCM. The combined extracts were dried over Na2SO4, filtered through a Celite® pad and concentrated in vacuo to give N-(4-(2-bromobutanoyl)phenyl)acetamide which was used without purification. MS ESI: m/z 284.10 [M+].

reactant | N-(4-butyryl-phenyl)acetamide | 16.9 mmol, 3.47 g | C(CCC)(=O)C1=CC=C(C=C1)NC(C)=O | C12H15NO2
reactant | AlCl3 | 1.35 mmol, 180 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Br2 | 10 mL | BrBr | Br2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(2-bromobutanoyl)phenyl)acetamide | BrC(C(=O)C1=CC=C(C=C1)NC(C)=O)CC | C12H14BrNO2
